US07964643B2
2′-Trifluoromethylbiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-284)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 2-trifluoromethylphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 22.6, 28.9, 32.0, 42.7, 60.5, 121.9, 126.2, 126.5, 127.1, 128.8, 129.8, 132.0, 132.6, 139.2, 140.2 and 143.1.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 2-trifluoromethylphenyl boronic acid | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
product | 2′-Trifluoromethylbiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C18H20F3NO3S
